Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Aspirin / Keflex / Percocet / Tamoxifen And Derivatives / 
Lipitor / sertraline / Darvocet-N 100
 
Attending: ___.
 
Chief Complaint:
N/V/Abd Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx pSBO s/p laparoscopic appendectomy converted to open 
right hemicolectomy with primary ileocolic anastomosis ___ for 
appendiceal carcinoid with 12h obstructive symptoms 
characterized by emesis, abdominal distension, no flatus x10 
hours. History notable for partial small bowel obstruction ___ 
then ___ post-op from R hemicolectomy. Multiple abdominal 
surgeries.
.
Current symptoms notable for 3 episodes nausea, nonbilious 
vomiting over 12h prior to presentation associated with 
subjective abdominal distension, RLQ pain. Last BM morning of 
presentation x4, formed, no diarrhea. Last flatus morning of 
admission. No interval colonoscopy post-op. Now reports 
increased
belching/hiccups. Denies fevers, reports subjective chills. 
.
Of note, recent EGD ___ notable for ___ esophagus and 
hiatal hernia, no varices. No interval colonoscopy since 
surgery. History of constipation though reports baseline BM 
1x/day,formed. Last PO intake morning of admission.
.
At time of consultation, pt AFVSS, non tachycardic, focal RLQ 
tympany/tenderness, otherwise non-toxic appearing.
 
Past Medical History:
Appendicial Carcinoid [2.6-cm NEC tumor, ___ +LN,
-Margins], ? side branch IPMN,Barretts esophagus, Endometriosis,
Nonalcoholic steatohepatitis w/ cirrhosis, HTN, DM2, Obesity,
Right breast ductal hyperplasia, IBS, Constipation, Arthritis,
Glaucoma, Sella turcica/cyst on pituitary gland (dx ___, 
Benign
thyroid nodules
.
PAST SURGICAL HISTORY: PSH: Lap appy, Lap to Open R 
hemicolectomy / ileocolic anastomosis / LOA ___ ___, 
tonsillectomy, lap oophorectomy (___ 1970s), lap CCY (___ 
___ uterine fibroid and partial oophorectomy, vaginal 
hysterectomy (___ ___, in bilateral salpingo-oophorectomy 
(___ ___, lung biopsy ___, liver biopsy ___, breast 
biopsies ___, thyroid nodule bx ___.
 
Social History:
___
Family History:
Mother (___)- HTN, DM2, asthma, BCC. Father (___)-pancreatic 
neoplasm, HTN, DM2. 2 Brothers - RCC (___), HTN. 3 Sisters - 
___ disease, DM2, BOOP. 

 
Physical Exam:
ADMIT:
VS: T 98.2, HR 80, BP 190/83, RR 18, SaO2 100% rm air
GEN: NAD, A/Ox3, nonicteric
HEENT: MMM, no scleral icterus
CV: RRR, no m/r/g
PULM: CTAB
BACK: no CVAT
ABD: obese, softly distended. lower midline, LLQ/LUQ lap port
site incisions well healed, no hernias. RLQ tympanitic, tender 
to
palpation without involuntary guarding, rebound.
PELVIS: deferred
EXT: WWP, distal pulses intact
.
DISCHARGE:
VS: 98.8, 64, 150/78, 18 95%RA
GEN: Comfortable, Laying in Bed
HEENT: oropharynx WNL
CV: RRR, no m/r/g
PULM: CTAB
ABD: obese, soft, nttp, non-distended
EXT: WWP

 
Pertinent Results:
ADMISSION LABS:
___ 10:02AM BLOOD WBC-6.6 RBC-4.69 Hgb-14.2 Hct-38.3 MCV-82 
MCH-30.3 MCHC-37.1* RDW-13.7 Plt ___
___ 10:02AM BLOOD Neuts-78.2* ___ Monos-3.0 Eos-0.1 
Baso-0.4
___ 05:17AM BLOOD Glucose-133* UreaN-12 Creat-0.7 Na-139 
K-3.9 Cl-102 HCO3-28 AnGap-13
___ 10:02AM BLOOD ALT-37 AST-25 AlkPhos-53 TotBili-0.6
___ 10:02AM BLOOD Lipase-25
___ 05:17AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2
___ 10:02AM BLOOD Albumin-4.8
.
IMAGING:
___ CT ABD/PELVIS W/ CONTRAST:
1) Multiple dilated loops of small bowel in the right lower 
quadrant with air fluid levels and fecalization of small bowel 
loops. Regional mesenteric stranding/small amount of fluid. No 
definite transition point identified, although focal narrowing 
as above. Findings are potentially from a partial or early small 
bowel obstruction.  
2. A focal area of small bowel narrowing with wall thickening 
could be a 
focal stricture. This however, does not explain dilated loops 
distally. 
3) Hepatic steatosis. 
.
___ KUB:
IMPRESSION: Dilated loops of small bowel in the right lower 
quadrant with 
air-fluid levels suggestive of partial or early small-bowel 
obstruction.  
Close clinical followup and repeat exam or CT can be performed 
if clinically indicated. 
 
Brief Hospital Course:
The patient was admitted to the ___ on ___ 
for a concern for a partial small bowel obstruction. The patient 
was managed conservatively with no surgical inteverention and 
improved.
.
Neuro: The patient did not require IV medications for pain 
control. Her pain remained a non-issue throughout her admission, 
and the patient did not require any additional pain medications.
. 
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
. 
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
. 
GI/GU: The patient was given IV fluids until tolerating oral 
intake. An NGT was placed on the day of admission for 
decompression. This was discontinued after her NGT output 
decreased on HD3. She had a clamping trial with no residual 
prior to discontinuation. Patient passed flatus on HD2 and HD3. 
The patient declined to have a foley catheter placed. Intake and 
output were closely monitored.
. 
ID: The patient's temperature was closely watched for signs of 
infection.
. 
Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate.
.
At the time of discharge on HD4, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, and voiding without assistance.
.
TRANSITONAL ISSUES:
1) F/u with Dr. ___ in 2 weeks

 
Medications on Admission:
Prilosec 20, Lisinopril 30, HCTZ 25, rosuvastatin 10'

 
Discharge Medications:
1. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
2. lisinopril 30 mg Tablet Sig: One (1) Tablet PO once a day.  
3. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. rosuvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Partial Small Bowel Obstruction
Secondary Diagnosis: Non-alcoholic steatohepatitis, 
Hypertension, Diabetes Mellitus Type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ___ 3 (Dr. ___ surgery 
service for a partial obstruction in your small intestines. 
After conservative treatment with a nasogastric tube and fluids 
you did well. You are now ready to continue your recovery at 
home.
 
General Discharge Instructions:
Please resume all regular home medications, unless specifically
advised not to take a particular medication.  Please take any 
new
medications as prescribed. Please take the prescribed analgesic 
medications as needed.  You may not drive or operate heavy 
machinery while taking narcotic analgesic medications.  You may 
also take acetaminophen (Tylenol) as directed, but do not exceed 
4000 mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids.   
 
Followup Instructions:
___